US05506239
1.28 g of 6-(3-aminopropoxy)carbostyril hydrochloride was added, at 0° C., to 10 ml of an aqueous solution containing 0.3 g of carbon disulfide and 0.4 g of sodium hydroxide. The mixture was stirred at 80° C. for about 2 hours. Thereto was added 0.55 g of ethyl chlorocarbonate at 35° C. The resulting mixture was stirred for 30 minutes. The reaction mixture was poured into water, followed by extraction with ethyl acetate. The filtrate was dried with magnesium sulfate. The solvent was removed by distillation. To the resulting residue was added diethyl ether, and the resulting crystals were collected by filtration and purified by a silica gel column chromatography (eluant: 3.3% methanol/dichloromethane) to obtain 0.22 g of 6-(3-isothiocyanatopropoxy)carbostyril.

reactant | 6-(3-aminopropoxy)carbostyril hydrochloride | 1.28 g | Cl.NCCCOC=1C=C2C=CC(NC2=CC1)=O
reactant | carbon disulfide | 0.3 g | C(=S)=S | CS2
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | ethyl chlorocarbonate | 0.55 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | water | O | H2O
product | 6-(3-isothiocyanatopropoxy)carbostyril | 0.22 g | N(=C=S)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H12N2O2S
